US09422281B2
A 100-mL round-bottom flask was charged with isopropyl (3S)-4-acetyl-7-bromo-3-methyl-1,2,3,4-tetrahydroquinoxaline-1-carboxylate (60 mg, 0.17 mmol), bis(triphenylphosphine)palladium(II) dichloride (12 mg, 0.02 mmol), water (8 mL), 1,4-dioxane (20 mL), cesium carbonate (165 mg, 0.50 mmol), and 2-[4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]methylpyrazine (60 mg, 0.21 mmol). The resulting mixture stirred overnight at 70° C. After cooling to room temperature, the reaction mixture was passed through a short pad of celite and concentrated under vacuum. The residue was purified by Prep-HPLC with the following conditions (1#waters2767): Column, Xbridge Phenyl 19×150 mm; mobile phase, Phase A: water (0.05% NH4HCO3), Phase B: CH3CN (15% CH3CN up to 60% in 8 min); Detector, UV220&254 nm to afford (S)-isopropyl 4-acetyl-3-methyl-7-(1-(pyrazin-2-ylmethyl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate (27.7 mg, 38%) as a white solid. 1H NMR (300 MHz, CD3OD) δ ppm 1.10 (d, J=6.60 Hz, 3H), 1.27-1.37 (m, 6H), 2.22 (s, 3H), 3.35-3.50 (m, 1H), 4.05-4.17 (m, 1H), 4.95-5.10 (m, 2H), 5.58 (s, 2H), 7.39 (br s, 2H), 7.91 (s, 1H), 8.03 (s, 1H), 8.21 (s, 1H), 8.49 (s, 1H), 8.56 (d, J=2.70 Hz, 1H), 8.59-8.62 (m, 1H). MS (ESI, pos. ion) m/z 435 [M+H]+.

reactant | isopropyl (3S)-4-acetyl-7-bromo-3-methyl-1,2,3,4-tetrahydroquinoxaline-1-carboxylate | 0.17 mmol, 60 mg | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC(C)C)C | C15H19BrN2O3
reactant | water | 8 mL | O | H2O
reactant | cesium carbonate | 0.50 mmol, 165 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-[4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]methylpyrazine | 0.21 mmol, 60 mg | CC1(C(OB(O1)C=1C=NN(C1)CC1=NC=CN=C1)(C)C)C | C14H19BN4O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.02 mmol, 12 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (S)-isopropyl 4-acetyl-3-methyl-7-(1-(pyrazin-2-ylmethyl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | 27.7 mg, 38% | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NN(C1)CC1=NC=CN=C1)C(=O)OC(C)C)C | C23H26N6O3
